US07666879B2
B. 4-tert-Butyl-2-methyl-pyridine 1-oxide
Dissolve 2-methyl-4-tert-butyl-pyridine (16.60 g, 111.23 mmol) in dichloromethane (80 mL) and add methyltrioxorhenium (VII) (0.139 g, 0.56 mmol) with vigorous stirring. At ambient temperature, add 30% hydrogen peroxide (40 mL) and stir vigorously for 18 hours. Quench the reaction by adding drop wise aqueous manganese dioxide (100 mg in 20 mL). After the off-gassing ceases, the aqueous turns a cloudy gray, the layers are separated and the aqueous is re-extracted with dichloromethane (3×100 mL). The organics are pooled, desiccated, filtered and concentrated to yield the title compound analytically pure (16.60 g, 100.61 mmol). MS (ESI), m/z 166 (M+1).

reactant | 2-methyl-4-tert-butyl-pyridine | 111.23 mmol, 16.60 g | CC1=NC=CC(=C1)C(C)(C)C | C10H15N
reactant | hydrogen peroxide | 40 mL | OO | H2O2
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
catalyst | methyltrioxorhenium (VII) | 0.56 mmol, 0.139 g | C[Re](=O)(=O)=O
catalyst | manganese dioxide | 20 mL, 100 mg | [O-2].[O-2].[Mn+4]
product | 4-tert-Butyl-2-methyl-pyridine 1-oxide | C(C)(C)(C)C1=CC(=[N+](C=C1)[O-])C | C10H15NO
